US06353006B1
4-Iodo-2-n-propylaniline was converted into 4-iodo-2-n-propylphenyl isothiocyanate in a manner analogous to Method A2b. Concurrently, 1-amino-1-(hydroxymethyl)cyclopentane was converted to the chloromethyl analogue, then reacted with the isothiocyanate in a manner analogous to Method C2a to give 2-(4-iodo-2-propylphenylimino)-3-thia-1-azaspiro[4.4]nonane. A slurry of 2-(4-iodo-2-propylphenylimino)-3-thia-1-azaspiro[4.4]nonane (0.54 g, 1.35 mmol) and CuCN (0.24 g, 2.70 mmol) in DMF (4 mL) was heated at 140° C. overnight. The resulting mixture was cooled to room temp, concentrated under reduced pressure and purified by flash chromatography (10% EtOAc/hex) to give 2-(4-cyano-2-propylphenylimino)-3-thia-1-azaspiro[4.4]nonane as a white solid (0.26 g, 65%): TLC (30% EtOAc/hex) Rf0.37.

reactant | 4-Iodo-2-n-propylaniline | IC1=CC(=C(N)C=C1)CCC | C9H12IN
reactant | 4-iodo-2-n-propylphenyl isothiocyanate | IC1=CC(=C(C=C1)N=C=S)CCC | C10H10INS
reactant | 1-amino-1-(hydroxymethyl)cyclopentane | NC1(CCCC1)CO | C6H13NO
reactant | isothiocyanate | [N-]=C=S
product | 2-(4-iodo-2-propylphenylimino)-3-thia-1-azaspiro[4.4]nonane | IC1=CC(=C(C=C1)N=C1NC2(CS1)CCCC2)CCC | C16H21IN2S
